US08614215B2
Intermediate 8: 4-(4-methoxy-2-nitrobenzylidene)tetrahydro-2H-pyran
To a solution of diethyl-(4-methoxy-2-nitrobenzyl)phosphonate (3 g; 9.89 mmol; 1 eq) and 15-crown-5 (196.31 μL; 0.99 mmol; 0.1 eq) in THF (30 mL) at 0° C. is added portionwise sodium hydride (431.65 mg; 9.89 mmol; 1 eq). After 15 min, a solution of tetrahydro-2H-pyran-4-one (990.43 mg; 9.89 mmol; 1 eq) in THF (30 mL) is added dropwise at 0° C. After stirring at room temperature for 3 h, the reaction is complete. The mixture is diluted with water at 0° C. and the product is extracted with EtOAc. The organic layer is washed with saturated aqueous NaHCO3 and brine then dried over MgSO4. The solvent is removed under reduced pressure and the yellow residue is washed with pentane (to remove the oil from NaH) to afford 1.8 g (73%) of the title compound as an orange powder. 1H NMR (DMSO-d6) δ 7.53 (d, J=2.3 Hz, 1H), 7.32-7.24 (m, 2H), 6.39 (s, 1H), 3.84 (s, 3H), 3.67-3.63 (m, 2H), 3.55-3.51 (m, 2H), 2.34-2.31 (m, 2H), 2.19-2.16 (m, 2H). HPLC (max plot) 87%; Rt 3.96 min.

reactant | diethyl-(4-methoxy-2-nitrobenzyl)phosphonate | 9.89 mmol, 3 g, 1 eq | C(C)OP(OCC)(=O)CC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C12H18NO6P
reactant | 15-crown-5 | 0.99 mmol, 196.31 μL, 0.1 eq | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | sodium hydride | 9.89 mmol, 431.65 mg, 1 eq | [H-].[Na+]
reactant | tetrahydro-2H-pyran-4-one | 9.89 mmol, 990.43 mg, 1 eq | O1CCC(CC1)=O | C5H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-(4-methoxy-2-nitrobenzylidene)tetrahydro-2H-pyran | 1.8 g, 73% | COC1=CC(=C(C=C2CCOCC2)C=C1)[N+](=O)[O-] | C13H15NO4
